US07622500B2
3-Chloro-4-[(1-methylprop-2-en-1-yl)oxy]benzonitrile
To a mixture of polymer-supported triphenylphosphine (470 mg, 19.0 mmol) and 3-chloro-4-hydroxybenzonitrile (2.0 g, 13.0 mmol) in anhydrous tetrahydrofuran (28 ml) was added a solution of diisopropyl azodicarboxylate (2.8 g, 13.8 mmol) in anhydrous tetrahydrofuran (27 ml). After stirring for 30 min, but-3-en-2-ol (1.1 ml, 13.0 mmol) in anhydrous tetrahydrofuran (43 ml) was added and the reaction mixture was stirred at room temperature for 4 h. The mixture was filtered, washing through with anhydrous tetrahydrofuran (2×40 ml), and the filtrate was concentrated in vacuo. To the residue was added tert-butyl methyl ether (40 ml) and the solution was washed with aqueous sodium hydroxide (1M, 3×100 ml) and brine, dried (MgSO4) and concentrated in vacuo. The residue was triturated with cyclohexane (30 ml) to give the title compound (1.7 g).

reactant | triphenylphosphine | 19.0 mmol, 470 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 3-chloro-4-hydroxybenzonitrile | 13.0 mmol, 2.0 g | ClC=1C=C(C#N)C=CC1O | C7H4ClNO
reactant | diisopropyl azodicarboxylate | 13.8 mmol, 2.8 g | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
reactant | but-3-en-2-ol | 13.0 mmol, 1.1 ml | CC(C=C)O | C4H8O
solvent | tetrahydrofuran | 28 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 27 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 43 ml | O1CCCC1 | C4H8O
product | 3-Chloro-4-[(1-methylprop-2-en-1-yl)oxy]benzonitrile | 1.7 g | ClC=1C=C(C#N)C=CC1OC(C=C)C | C11H10ClNO
